.subckt AFR_Level60db in OUT
R1 in 0 1G noiseless
B1 OUT 0 V=v(in)*1m DB Freq (20,3,0 50,10,0 100,30,0 200,47,0 500,57,0 1k,60,0 2k,64,0 4.k,67,0 5k,59,0 10k,49,0 20k,40,0)
R2 OUT 0 1k
.ends AFR_Level60db

